US08048899B2
Synthesis of 2-{5-[2-Methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionylamino]-isoxazol-3-yl}-isobutyramide (Example 131)
To a solution of 2-methyl-2-{5-[2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionylamino]-isoxazol-3-yl}-propionic acid (35 mg, 0.09 mmol), di-tert-butyl dicarbonate (26 mg, 0.12 mmol), and ammonium bicarbonate (14 mg, 0.18 mmol) in the mixture of DMF (0.035 mL) and 1,4-dioxane (0.5 mL) is added pyridine (0.022 mL, 0.27 mmol). The reaction mixture is stirred at room temperature for 1.5 h. After this time, the reaction mixture is diluted with ethyl acetate and washed with 1N aqueous hydrochloric acid solution and brine, dried over Na2SO4, filtered and concentrated under reduced pressure. Purification of the residue by preparative HPLC provides 3.0 mg of the title compound. Yield: 9%; m/z 388 [M+H].

reactant | 2-methyl-2-{5-[2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionylamino]-isoxazol-3-yl}-propionic acid | 0.09 mmol, 35 mg | CC(C(=O)O)(C)C1=NOC(=C1)NC(C(C)(S(=O)(=O)C1CCOCC1)C)=O | C16H24N2O7S
reactant | di-tert-butyl dicarbonate | 0.12 mmol, 26 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonium bicarbonate | 0.18 mmol, 14 mg | C([O-])(O)=O.[NH4+]
reactant | pyridine | 0.27 mmol, 0.022 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 0.035 mL | CN(C)C=O | C3H7NO
product | 2-{5-[2-Methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionylamino]-isoxazol-3-yl}-isobutyramide | 3.0 mg, Yield: 9% | CC(C(=O)NC1=CC(=NO1)C(C(=O)N)(C)C)(C)S(=O)(=O)C1CCOCC1 | C16H25N3O6S
